US04125732
Methyl bromo{p-[2-(p-chlorophenoxy)-1-methylethoxy]phenyl}acetate
A mixture of 10.0 g of methyl{p-[2-(p-chlorophenoxy)-1-methylethoxy]phenyl}acetate, 5.87 g of N-bromosuccinimide and 120 ml of carbon tetrachloride is stirred and refluxed for 5 days. The mixture is cooled, filtered and the filtrate is passed through a short column of silica gel (125 ml cuts). The first two cuts are combined and the solvent removed to give 12.0 g of colorless gum.

reactant | methyl{p-[2-(p-chlorophenoxy)-1-methylethoxy]phenyl}acetate | 10.0 g | COC(CC1=CC=C(C=C1)OC(COC1=CC=C(C=C1)Cl)C)=O | C18H19ClO4
reactant | N-bromosuccinimide | 5.87 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 120 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl bromo{p-[2-(p-chlorophenoxy)-1-methylethoxy]phenyl}acetate | 12.0 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC(COC1=CC=C(C=C1)Cl)C | C18H18BrClO4
